US05618970
(E)-tert-Butyl 2-(2-methoxyethoxymethyl)-3-(4-bromobenzenesulphonyl)acrylate
To a solution of 4-bromobenzenesulphonyl iodide (1.06 g, 3.15 mmol) in dichloromethane (4.5 mL) at room temperature was added tert-butyl 2-(2-methoxyethoxymethyl)acrylate (0.45 g, 2.1 mmol). The mixture was stirred at room temperature for 2.5 hours, cooled to 0° C. and triethylamine (0.58 mL, 4.2 mmol) added dropwise. The reaction was stirred at 0° C. for 0.5 hours and at room temperature for 1.0 hour, diluted with distilled water (20 mL) and dichloromethane (15 mL) and the layers separated. The aqueous layer was further extracted with dichloromethane (2×5 mL) and the combined organic extracts were washed with 1.0M aqueous hydrochloric acid solution (20 mL), 5% aqueous sodium thiosulphate solution (20 mL) and distilled water (20 mL). The dichloromethane phase was dried (MgSO4), filtered and concentrated under reduced pressure to give a brown oil (0.88 g). The crude product was purified by chromatography on silica by gradient elution with hexane/ethyl acetate mixtures to give, after combination and evaporation of appropriate fractions, the title compound as a yellow oil (0.75 g, 83%), Rf =0.39 (silica; hexane/ethyl acetate, 2:1).

reactant | 4-bromobenzenesulphonyl iodide | 3.15 mmol, 1.06 g | BrC1=CC=C(C=C1)S(=O)(=O)I | C6H4BrIO2S
reactant | tert-butyl 2-(2-methoxyethoxymethyl)acrylate | 2.1 mmol, 0.45 g | COCCOCC(C(=O)OC(C)(C)C)=C | C11H20O4
reactant | triethylamine | 4.2 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (E)-tert-Butyl 2-(2-methoxyethoxymethyl)-3-(4-bromobenzenesulphonyl)acrylate | 0.88 g | COCCOC/C(/C(=O)OC(C)(C)C)=C\S(=O)(=O)C1=CC=C(C=C1)Br | C17H23BrO6S
